US08486953B2
4-(4-Fluoro-2-(tetrahydro-2H-pyran-4-yloxy)phenylamino)thieno[2,3-d]pyrimidine-6-carboxylic acid
Lithium hydroxide monohydrate (0.062 g, 1.49 mmol) was added into a suspension of methyl 4-(4-fluoro-2-(tetrahydro-2H-pyran-4-yloxy)phenylamino)thieno[2,3-d]pyrimidine-6-carboxylate (0.100 g, 0.25 mmol) in THF/water (1:1; 1.0 mL) and the reaction stirred at ambient temperature for 16 hours. The mixture was cooled in an ice-bath and 1 N hydrochloric acid added drop wise until the solution reached pH 5. The precipitate was collected, washed with water and dried over P2O5 to yield off-white solid (0.060 g, 62%).

reactant | Lithium hydroxide monohydrate | 1.49 mmol, 0.062 g | O.[OH-].[Li+]
reactant | methyl 4-(4-fluoro-2-(tetrahydro-2H-pyran-4-yloxy)phenylamino)thieno[2,3-d]pyrimidine-6-carboxylate | 0.25 mmol, 0.100 g | FC1=CC(=C(C=C1)NC=1C2=C(N=CN1)SC(=C2)C(=O)OC)OC2CCOCC2 | C19H18FN3O4S
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | THF water | 1.0 mL | C1CCOC1.O
product | 4-(4-Fluoro-2-(tetrahydro-2H-pyran-4-yloxy)phenylamino)thieno[2,3-d]pyrimidine-6-carboxylic acid | 0.060 g, 62% | FC1=CC(=C(C=C1)NC=1C2=C(N=CN1)SC(=C2)C(=O)O)OC2CCOCC2 | C18H16FN3O4S
